US04824830
To a solution of lithium aluminium hydride (38 mg) in diethylether (10 ml) is added gradually a solution of 3,17-bis(ethylenedioxy)-5,6α-epoxy-16α-fluoro-1β-methyl-7-methylenandrostane (431 mg) in tetrahydrofuran (10 ml). The resulting mixture is stirred at 20°-25° C. for a period of about 18 hrs after which an aqueous solution of potassium sodium tartrate is added. The mixture is filtered and concentrated to a small volume under reduced pressure. The concentrate is taken up in diethyl ether and washed well with water. The ether solution is dried over magnesium sulfate, filtered and the ether removed under vacuum to yield crude 3,17-bis(ethylenedioxy)-16-fluoro-5-hydroxy-1β-methyl-7-methylenandrostane. This intermediate is dissolved in a 2:1 mixture of acetic acid and water (5 ml) and the solution heated for 6 hrs at 40°-50° C. Then water is added and the product extracted with ethyl acetate.

reactant | lithium aluminium hydride | 38 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3,17-bis(ethylenedioxy)-5,6α-epoxy-16α-fluoro-1β-methyl-7-methylenandrostane | 431 mg | C1OC2CC34[C@H](C([C@H]5[C@@H]6C[C@]7(C([C@@]6(C)CC[C@@H]5[C@]3([C@@H](C2OC1)C)C)OCCO7)F)=C)O4 | C25H35FO5
reactant | potassium sodium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | diethylether | 10 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3,17-bis(ethylenedioxy)-16-fluoro-5-hydroxy-1β-methyl-7-methylenandrostane | C1OC2CC3(CC([C@H]4[C@@H]5CC6(C([C@@]5(C)CC[C@@H]4[C@]3([C@@H](C2OC1)C)C)OCCO6)F)=C)O | C25H37FO5
